US05382380
A reaction vessel was charged with 113 g of anhydrous aluminum chloride and 600 ml of methylene chloride. To the mixture was added dropwise 113 g of acetyl chloride with stirring at a temperature not higher than 0° C., and was then added dropwise a solution of 100 g of 4-bromo-2-fluoro-biphenyl in 400 ml of methylene chloride. The mixture was reacted with stirring for 7 hours while gradually bringing it back to room temperature. The reaction liquid was poured into ice and diluted hydrochloric acid. The methylene chloride layer was washed successively with water, an aqueous solution of sodium hydrogen carbonate and water, and then dried over Glauber's salt. The solvent was then distilled off and the residue was recrystallized from acetone to give 96 g (82.2%) of 4-acetyl-2'-fluoro-4'-bromobiphenyl.

reactant | aluminum chloride | 113 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 113 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-bromo-2-fluoro-biphenyl | 100 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 4-acetyl-2'-fluoro-4'-bromobiphenyl | 96 g, 82.2% | C(C)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)Br)F | C14H10BrFO
